US08461372B2
Benzyloxy-acetic acid {6-[2-(2-benzyloxy-acetoxy)-acetyl amino]-hexylcarbamoyl}-methyl ester (250 g) was dissolved in DMF (600 ml) in a pressure vessel (Autoclave), 50% wet palladium on carbon (10%, 75 g) was added and the mixture was stirred under hydrogen atmosphere (8 Kg) for 72 hours at 70° C. The catalyst was removed by filtration and 80% of the DMF was distilled off. The crude product was precipitated by adding to Methanol and filtered and dried to get pure (Hydroxy-acetic acid {6-[2-(2-hydroxy -acetoxy)-acetylamino]-hexylcarbamoyl}-methyl ester) (90 g) as a white powder with a melting point of 156-158° C. The pure product was characterized by IHNMR (CDC13+DMSO-d6) δ 1.22 (m, 2H, CH2), 1.38 (m, 2H, CH2), 3.06 (m, 2H, CH2), 4.15 (d, 2H, CH2), 4.48 (s, 2H, CH2), 5.42 (t, 1H, OH), 7.98 (bt, 1H, NH).

reactant | Benzyloxy-acetic acid {6-[2-(2-benzyloxy-acetoxy)-acetyl amino]-hexylcarbamoyl}-methyl ester | 250 g | C(C1=CC=CC=C1)OCC(=O)OCC(=O)NCCCCCCNC(=O)COC(COCC1=CC=CC=C1)=O | C28H36N2O8
solvent | DMF | 600 ml | CN(C)C=O | C3H7NO
catalyst | palladium on carbon | 75 g | [Pd] | Pd
product | Hydroxy-acetic acid {6-[2-(2-hydroxy -acetoxy)-acetylamino]-hexylcarbamoyl}-methyl ester | OCC(=O)OCC(=O)NCCCCCCNC(=O)COC(CO)=O | C14H24N2O8
